US08058441B2
(a). 1-Acetyl-6-iodo-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A sodium nitrite solution (31 mg) was added dropwise to a cooled (0° C.) solution of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (128 mg) and sulfuric acid (82 mg) in water (2 ml). After stirring at 0° C. for 15 min, a potassium iodide solution (105 mg) was added. After stirring for 18 h, the reaction mixture was poured into dichloromethane. The organic layer was separated and washed with 5% aq. sodium thiosulfate and water, dried (MgSO4) and concentrated in vacuo.

reactant | sodium nitrite | 31 mg | N(=O)[O-].[Na+]
reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 128 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | sulfuric acid | 82 mg | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide | 105 mg | [I-].[K+]
solvent | water | 2 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Acetyl-6-iodo-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)I)(C)C1=CC=CC=C1)(C)C | C20H22INO
